US05126448
In 5 ml of dimethylformamide were dissolved 458 mg of benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid and 170 mg of piperidine, and 660 mg of DPPA (diphenylphosphorylazide) was added dropwise to the solution under ice-cooling. Then, 335 μl of triethylamine was added to the mixture and the resultant mixture was stirred overnight at room temperature. After the reaction was over, the reaction mixture was diluted with ethyl acetate and the solution was washed with an aqueous 5% citric acid solution, an aqueous 5% sodium hydrogencarbonate solution, and then a saturated aqueous sodium chloride solution and thereafter dried with sodium sulfate. The ethyl acetate layer was concentrated under reduced pressure and the residue was purified by silica gel thin layer chromatography (solvent: chloroform) and then recrystallized from a mixture of chloroform and ether to provide 230 mg (yield of 85%) of 1-(benzo[b]thieno[2,3-c]pyridine-3-carbonyl)-piperidine.

reactant | benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid | 458 mg | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)O | C12H9NO2S
reactant | piperidine | 170 mg | N1CCCCC1 | C5H11N
reactant | DPPA | 660 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 335 μl | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(benzo[b]thieno[2,3-c]pyridine-3-carbonyl)-piperidine | 230 mg, yield of 85% | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)N3CCCCC3 | C17H18N2OS
